### PR TITLE
Proof updates for seL4 PR #846

### PR DESCRIPTION
**Pull request by lsf37**
This updates specs and proofs for seL4/seL4#846, in particular for ` PageGetAddr`  to use the proper return-value-from-kernel protocol.

Test with seL4/seL4#846

### CODE REVIEW

**Comment by lsf37** [comment]
It looks like kernel PR needs to be rebased first for CKernel to pass.

**Comment by ryybrr** [comment]
Currently testing with [ryybrr/seL4/ryanb-msginfo](https://github.com/ryybrr/seL4/tree/ryanb-msginfo)

**Comment by lsf37** [comment]
> Currently testing with [ryybrr/seL4/ryanb-msginfo](https://github.com/ryybrr/seL4/tree/ryanb-msginfo)

Could you try out something for me? Not quite sure if this will work, but if you make a PR from `ryanb-msginfo` to the master branch of your own fork `ryybrr/seL4`, we should be able to get the PR test to run with that PR by adding the line

```
Test with ryybrr/seL4#<pr-num>
```

to the description of this PR.

File: proof/crefine/RISCV64/Arch_C.thy [hunk 1]
```diff
@@ -1322,6 +1322,105 @@ lemma performPageInvocationMapPTE_ccorres:
...
+lemma vmRightsToBits_not_0:
+  "vmRightsToBits rights \<noteq> 0"
+  by (cases rights; clarsimp simp: vmRightsToBits_def)
+
+(* FIXME move to SR_Lemmas_C *)
+lemma vmRightsToBits_vmrights_to_H:
+  "\<lbrakk> rights < 4; rights \<noteq> 0 \<rbrakk> \<Longrightarrow> vmRightsToBits (vmrights_to_H rights) = rights"
+  apply (clarsimp simp add: vmrights_to_H_def vm_rights_defs vmRightsToBits_def split: if_splits)
+  apply (drule word_less_cases, erule disjE, simp, simp)+
+  done
```
Comment (lsf37) [inline proof/crefine/RISCV64/Arch_C.thy:1340]: I know you just moved them inside the file, but if possible, please move them up to `SR_Lemmas_C` to resolve the FIXMEs.

File: proof/drefine/Arch_DR.thy [hunk 2]
```diff
@@ -1456,65 +1456,68 @@ lemma invoke_page_corres:
...
+     apply (simp_all add:perform_page_invocation_def)
+     apply (rename_tac word cap prod sum)
+     apply (simp_all add:perform_page_invocation_def transform_page_inv_def)
+    apply (rule dcorres_expand_pfx)
+    apply (clarsimp simp:valid_page_inv_def)
+    apply (clarsimp simp:empty_refs_def)
+    apply (case_tac sum)
+     apply (clarsimp simp: mapM_x_singleton)
+     apply (simp add:page_inv_duplicates_valid_def
+     split:if_splits)
```
Comment (lsf37) [inline proof/drefine/Arch_DR.thy:1468]: indent

File: proof/crefine/ARM/Arch_C.thy [hunk 3]
```diff
@@ -1885,6 +1883,132 @@ lemma performPageInvocationMapPDE_ccorres:
   apply (auto simp: unat_arith_simps unat_word_ariths)
   done
 
+lemma length_of_msgRegisters:
+  "length ARM_H.msgRegisters = 4"
+  by (auto simp: msgRegisters_unfold)
```
Comment (lsf37) [inline proof/crefine/ARM/Arch_C.thy:1888]: We usually try to avoid expanding magic numbers in the proofs so that we don't have to update the proofs when such constants change. I think @Xaphiosis had a similar lemma in the fastpath rearrangement PR recently that achieved the same but stayed schematic. If you rebase over master this lemma might already be in scope at this point.

File: proof/crefine/ARM/Arch_C.thy [hunk 4]
```diff
@@ -1885,6 +1883,132 @@ lemma performPageInvocationMapPDE_ccorres:
...
+
+lemma setMRs_single:
+  "setMRs thread buffer [val] = do y \<leftarrow> asUser thread (setRegister register.R2 val);
```
Comment (lsf37) [inline proof/crefine/ARM/Arch_C.thy:1891]:
```suggestion
  "setMRs thread buffer [val] = do _ \<leftarrow> asUser thread (setRegister register.R2 val);
```

**Comment by lsf37** [comment]
Had a look through the content, and I'm happy with it (modulo some small nitpicks above). We still need to rebase and squash commits before we ask for more reviews.

File: proof/crefine/ARM/Arch_C.thy (hunk 3 above)
Comment (Xaphiosis) [reply proof/crefine/ARM/Arch_C.thy:1888]: `length_msgRegisters` in `ArchMove_C` on every arch.

File: proof/crefine/ARM/Arch_C.thy [hunk 5]
```diff
@@ -1885,6 +1883,132 @@ lemma performPageInvocationMapPDE_ccorres:
...
+       return 1
+    od"
+  apply (clarsimp simp: setMRs_def length_of_msgRegisters zipWithM_x_def zipWith_def split: option.splits)
+  apply (subst zip_commute, subst zip_singleton)
+   apply (simp add: length_of_msgRegisters length_0_conv[symmetric])
+  apply (clarsimp simp: msgRegisters_unfold sequence_x_def)
+  done
+
+(* usually when we call setMR directly, we mean to only set a registers, which will
+   fit in actual registers *)
```
[the remark this answers is not in the document]
Comment (ryybrr) [reply proof/crefine/ARM/Arch_C.thy:1901]: > Did you mean something like this?

Don't think this was my comment (I'm averse to adding them), but I agree

File: proof/crefine/ARM/Arch_C.thy (hunk 3 above)
Comment (ryybrr) [reply proof/crefine/ARM/Arch_C.thy:1888]: Will have a look, this was copied from ARM_HYP so I'll try to fix it there too

File: proof/crefine/ARM/Arch_C.thy (hunk 4 above)
Comment (ryybrr) [reply proof/crefine/ARM/Arch_C.thy:1891]: I actually think this didn't apply without binding to a variable, I'll have another look

Comment (lsf37) [reply proof/crefine/ARM/Arch_C.thy:1891]: Like this is should still bind to a variable, it just doesn't specify a name (i.e. it's different from `do asUser thread (setRegister register.R2 val); .. od`, which is `K_bind` internally)

File: proof/crefine/ARM_HYP/Arch_C.thy [hunk 6]
```diff
@@ -2180,6 +2178,88 @@ lemma performPageInvocationMapPDE_ccorres:
...
+  "ccorres ((intr_and_se_rel \<circ> Inr) \<currency> dc) (liftxf errstate id (K ()) ret__unsigned_long_')
+      (invs' and (\<lambda>s. ksCurThread s = thread) and ct_in_state' ((=) Restart))
+      (UNIV \<inter> \<lbrace>\<acute>vbase_ptr = Ptr ptr\<rbrace> \<inter> \<lbrace>\<acute>call = from_bool isCall\<rbrace>) []
+      (do reply \<leftarrow> performPageInvocation (PageGetAddr ptr);
+          liftE (replyOnRestart thread reply isCall) od)
+      (Call performPageGetAddress_'proc)"
+  apply (cinit' lift: vbase_ptr_' call_' simp: performPageInvocation_def)
+   apply (clarsimp simp: bind_assoc)
+   apply csymbr
+   apply csymbr
```
[the remark this answers is not in the document]
Comment (lsf37) [reply proof/crefine/ARM_HYP/Arch_C.thy:2193]: Yes, `csymbr` symbolically executes a statement on the right-hand side of the correspondence statement without changing the left-hand side. Doing it twice just processes two statements.

File: proof/refine/X64/VSpace_R.thy [hunk 7]
```diff
@@ -949,6 +955,8 @@ proof -
     apply (rule corres_fail, clarsimp simp: valid_cap_def)
    apply (simp add: perform_page_invocation_unmap_def performPageInvocationUnmap_def split_def)
     apply (rule corres_guard_imp)
+     apply (rule corres_split'[where r'=dc, OF _ corres_return_eq_same[OF refl]
+                                                  hoare_post_taut hoare_post_taut])
```
Comment (Xaphiosis) [inline proof/refine/X64/VSpace_R.thy:959]: indentation on these: `hoare_post_taut` is part of the `OF`, not the `corres_return_eq_same` so should be indented in line with the `_`. Same goes for the other copy-pasted instances.

File: proof/crefine/RISCV64/SR_lemmas_C.thy [hunk 8]
```diff
@@ -13,6 +13,22 @@ begin
...
 context begin interpretation Arch . (*FIXME: arch_split*)
 
+section "vm rights"
+
+lemma vmRightsToBits_bounded:
+  "vmRightsToBits rights < 4"
+  by (cases rights; clarsimp simp: vmRightsToBits_def)
+
+lemma vmRightsToBits_not_0:
+  "vmRightsToBits rights \<noteq> 0"
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/SR_lemmas_C.thy:23]: it's sometimes easier to work with `0 < n` than `n \<noteq> 0`

File: proof/crefine/RISCV64/Arch_C.thy [hunk 9]
```diff
@@ -1595,30 +1661,40 @@ lemma decodeRISCVFrameInvocation_ccorres:
...
-      apply wp
+      apply (wpsimp simp: performPageInvocation_def)
      apply (wp sts_invs_minor')
     apply simp
     apply (vcg exspec=setThreadState_modifies)
 
    \<comment> \<open>PageMap\<close>
    supply Collect_const[simp del]
-   apply (rename_tac word rights pg_sz maptype mapdata buffera cap excaps cte
+   apply (rename_tac word rights pg_sz maptype mapdata calla buffera cap excaps cte
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Arch_C.thy:1697]: When renaming, we should not propagate Isabelle-generated names like `calla`. If `call` is already taken, then `call'` is more traditional for the concrete side.

File: proof/crefine/RISCV64/Arch_C.thy [hunk 10]
```diff
@@ -1595,30 +1661,40 @@ lemma decodeRISCVFrameInvocation_ccorres:
      apply (rule ccorres_rhs_assoc)+
      apply (ctac add: setThreadState_ccorres)
        apply csymbr
+       apply (rule ccorres_nondet_refinement)
+        apply (rule is_nondet_refinement_bindE)
+         apply (rule is_nondet_refinement_refl)
+        apply (simp split: if_split)
+        apply (rule conjI[rotated], rule impI, rule is_nondet_refinement_refl)
+        apply (rule impI)
+        apply (rule is_nondet_refinement_alternative1)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Arch_C.thy:1670]: this chain looks like something `fastforce` or `auto` could solve given `is_nondet_refinement_refl` and `is_nondet_refinement_alternative1` as `intro` or `intro!` rules.

File: proof/crefine/ARM/Arch_C.thy [hunk 11]
```diff
@@ -1885,6 +1883,129 @@ lemma performPageInvocationMapPDE_ccorres:
   apply (auto simp: unat_arith_simps unat_word_ariths)
   done
 
+lemma setMRs_single:
+  "setMRs thread buffer [val] = do _ \<leftarrow> asUser thread (setRegister register.R2 val);
+       return 1
+    od"
```
Comment (Xaphiosis) [inline proof/crefine/ARM/Arch_C.thy:1889]: was this copied from elsewhere? indentation is incorrect; if you want `do` on the rhs, the `_ <- asUser` should be on next line, the `od` aligned with `setMRs` and the `return` two from `od`.

Comment (Xaphiosis) [reply proof/crefine/ARM/Arch_C.thy:1889]: Also, interestingly, why does only ARM have this?

File: proof/crefine/RISCV64/SR_lemmas_C.thy (hunk 8 above)
Comment (lsf37) [reply proof/crefine/RISCV64/SR_lemmas_C.thy:23]: This one is just moved from further down resolving a FIXME. I don't think we should touch the statement at this point.

File: proof/crefine/RISCV64/Arch_C.thy (hunk 10 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Arch_C.thy:1670]: Would be nice to try out yes. The `conjI[rotated]` indicates that there is something going on here, possibly an instantiation that fastforce/auto might not get. But the lines after that could be collapsed.

**Comment by lsf37** [comment]
This is now ready to merge from my side. Funnily I can't approve, because I made the original PR, but @ryybrr you can. Please do and then merge.

**Review by kent-mcleod — APPROVED** [review]
